US08349865B2
Step 3: 6-({2,6-Dichloro-4-[5-(1-hydroxy-1-methylethyl)-1,2,4-oxadiazol-3-yl]phenyl}amino)pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one
To a solution of 1-(3-{3,5-dichloro-4-[(10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-yl)amino]phenyl}-1,2,4-oxadiazol-5-yl)-1-methylethyl acetate (63 mg, 0.11 mmol) in THF (3 mL) was added HCl (0.188 mL, 1.13 mmol, 6M in water) and the mixture was heated to 60° C. for 45 min in a sealed tube. After cooling to room temperature, the reaction was diluted with ethyl acetate/THF (3:1) and washed with saturated aqueous sodium bicarbonate, followed by brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with MeOH in dichloromethane to afford the title compound.

reactant | 1-(3-{3,5-dichloro-4-[(10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-yl)amino]phenyl}-1,2,4-oxadiazol-5-yl)-1-methylethyl acetate | 0.11 mmol, 63 mg | C(C)(=O)OC(C)(C)C1=NC(=NO1)C1=CC(=C(C(=C1)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OCC)Cl | C26H22Cl2N6O4
reactant | HCl | 1.13 mmol, 6M, 0.188 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate THF | C(C)(=O)OCC.C1CCOC1
product | 6-({2,6-Dichloro-4-[5-(1-hydroxy-1-methylethyl)-1,2,4-oxadiazol-3-yl]phenyl}amino)pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | ClC1=C(C(=CC(=C1)C1=NOC(=N1)C(C)(C)O)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C22H16Cl2N6O3
